US07230031B2
2-Hydroxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde
2-Methoxy-5-(5-methyl-7-nitroindan-4-yloxy) benzaldehyde (2.03 g) was dissolved in dichloromethane (80 mL). To the solution was added dropwise a 1 mol/L solution of boron trichloride in dichloromethane (20 mL) under ice-cooling with stirring. The reaction mixture was stirred at room temperature for 24 hours. To the reaction mixture was added dropwise methanol (10 mL) under ice-cooling with stirring. After adding diluted hydrochloric acid, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (1.45 g).

reactant | 2-Methoxy-5-(5-methyl-7-nitroindan-4-yloxy) benzaldehyde | 2.03 g | COC1=C(C=O)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C18H17NO5
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | methanol | 10 mL | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Hydroxy-5-(5-methyl-7-nitroindan-4-yloxy)benzaldehyde | 1.45 g | OC1=C(C=O)C=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C17H15NO5
